US07135492B2
Ethyl chlorooxoacetate (16.3 g; 0.128 mol) was added dropwise to the solution N-(5-chloro-2-methylphenyl)-N′-methylthiourea (10.7 g; 0.05 mol) in chloroform (200 mL). The mixture was heated at reflux for 4 hours then evaporated to dryness. The residue was treated with ether (200 mL). The precipitated solid was collected by filtration and dried to give 9.7 g of 1-(5-chloro-2-methylphenyl)-3-methyl-2-thioxo-4,5-imidazolidinedione, m.p. 171–173° C. Mass spectrum; (El, M.+) m/z268/270. 1H-NMR (DMSO-d6; 300 MHz): δ 7.50–7.47 (m, 1H), 7.42–7.40 (m, 2H), 3.31 (s, 3H), and 2.15 ppm (s, 3H).

reactant | Ethyl chlorooxoacetate | 0.128 mol, 16.3 g | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | N-(5-chloro-2-methylphenyl)-N′-methylthiourea | 0.05 mol, 10.7 g | ClC=1C=CC(=C(C1)NC(=S)NC)C | C9H11ClN2S
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(5-chloro-2-methylphenyl)-3-methyl-2-thioxo-4,5-imidazolidinedione | 9.7 g | ClC=1C=CC(=C(C1)N1C(N(C(C1=O)=O)C)=S)C | C11H9ClN2O2S
